US05935945
Synthesis of 2-(Diphenylphosphinylmethyl)-4'-fluoro-3,5,3'-trimethylbiphenyl (compound "C")
2.90 grams (12 mmol) of 2-(4-fluoro-3-methyl-phenyl)-4,6-dimethylbenzaldehyde (prepared according to Stokker, Journ. Med. Chem., Vol. 29 p.170, 1986) was reduced with 0.454 grams (12 mmol) of sodium borohydride in ethanol (20 mL) at 0° C. The reaction was stirred 1 hr, quenched with aqueous ammonium chloride and the mixture extracted with ether. The organic portion was dried (MgSO4) and concentrated to give 2.90 grams of 2-(4-fluoro-3-methyl-phenyl)-4,6-dimethylbenzyl alcohol as an oil which solidified on standing. The crude solid was treated with 1.31 mL of thionyl chloride and heated on a steam bath for 1 hour. After cooling to room temperature, the crude mixture was taken up in water and extracted with ether. The ether was washed with water and dried(MgSO4), and concentrated to give an oily residue which was purified by silica gel chromatography (25% methylene chloride/75% hexane) to give 2.70 grams (85.6%) of 2-(4-fluoro-3-methyl-phenyl)-4,6-dimethylbenzyl chloride as a solid. 2.06 grams (7.84 mmol) of 2-(4-fluoro-3-methyl-phenyl)-4,6-dimethylbenzyl chloride was treated with ethyldiphenylphosphinite (2.08 grams, 9.01 mmol) and heated to 150° C. for 3 hrs. After cooling to room temperature, the crude mixture was purified by silicagel chromatography (10% acetone/90% methylene chloride) and the appropriate fractions concentrated and recrystallized from ether/hexane to provide the above-titled compound. MP 109-111° C.

reactant | 2-(4-fluoro-3-methyl-phenyl)-4,6-dimethylbenzyl chloride | 7.84 mmol, 2.06 grams | FC1=C(C=C(C=C1)C1=C(CCl)C(=CC(=C1)C)C)C | C16H16ClF
reactant | ethyldiphenylphosphinite | 9.01 mmol, 2.08 grams | C(C)OP(C1=CC=CC=C1)C1=CC=CC=C1 | C14H15OP
product | 2-(Diphenylphosphinylmethyl)-4'-fluoro-3,5,3'-trimethylbiphenyl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)CC1=C(C=C(C=C1C)C)C1=CC(=C(C=C1)F)C | C28H26FOP
